US04337250
1-(4-Chloro-1-butyl)-2,3-indolinedione
Sodium hydride (50% dispersion in oil, 1.63 g, 34 mmole) under dry nitrogen was washed with 50 ml of ether to remove the oil. The ether was separated by decantation. Dimethylformamide (25 ml) was added to the ether wet sodium hydride. A solution of 2,3-indolinedione (isatin, 5 g, 34 mmole) and 1,4-dichlorobutane (21.6 g, 18.6 ml, 0.17 mmole) in 200 ml of dimethylformamide was added dropwise over 1 hour, maintaining the temperature at 25°-28° C. The resulting solution was stirred for 1 hour at room temperature. The reaction mixture was filtered, and the filtrate evaporated to 30 ml and diluted with 50 ml of methylene chloride. The resulting mixture was again filtered, the filtrate evaporated to dryness and the residue slurried in 200 ml of ether. The ether was decanted from a drum and evaporated to yield the title product [830 mg, Rf 0.55 1:1 ethyl acetate:hexane)].

reactant | Sodium hydride | 34 mmole, 1.63 g | [H-].[Na+]
reactant | 2,3-indolinedione | 34 mmole, 5 g | N1C(C(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | 1,4-dichlorobutane | 0.17 mmole, 18.6 ml, 21.6 g | ClCCCCCl | C4H8Cl2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-(4-Chloro-1-butyl)-2,3-indolinedione | ClCCCCN1C(C(C2=CC=CC=C12)=O)=O | C12H12ClNO2
